US05665748
In substantially the same manner as in Reference Example 14, (E,E)-5-(4-isopropoxyphenyl)-2,4-pentadien-1-ol was oxidized with manganese dioxide to give (E,E)-5-(4-isopropoxyphenyl)-2,4-pentadien-1-al as an oily substance.

reactant | (E,E)-5-(4-isopropoxyphenyl)-2,4-pentadien-1-ol | C(C)(C)OC1=CC=C(C=C1)/C=C/C=C/CO | C14H18O2
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | (E,E)-5-(4-isopropoxyphenyl)-2,4-pentadien-1-al | C(C)(C)OC1=CC=C(C=C1)/C=C/C=C/C=O | C14H16O2
